US05102882
4-Morpholinocarbonylmethyl-1-(2-pyrrolidone-5-carbonyl)piperazine
1-(2-Pyrrolidone-5-carbonyl)piperazine (3.7 g), 3.7 g of 4-chloroacetylmorpholine, 4.4 g of anhydrous potassium carbonate, and 20 ml of N,N-dimethylformamide were stirred at 70°-75° C. for 1 hour. The insoluble matter was removed by filtering the reaction mixture, the solvent was removed by evaporating the filtrate, and the residue was purified by a silica gel column chromatography to give 5.7 g of the product. This was recrystallized from a mixture of ethanol, ethyl acetate and diethyl ether to give 4.2 g of desired product, m.p. 167°-169° C.

reactant | 1-(2-Pyrrolidone-5-carbonyl)piperazine | 3.7 g | N1C(CCC1C(=O)N1CCNCC1)=O | C9H15N3O2
reactant | 4-chloroacetylmorpholine | 3.7 g | ClCC(=O)N1CCOCC1 | C6H10ClNO2
reactant | potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-Morpholinocarbonylmethyl-1-(2-pyrrolidone-5-carbonyl)piperazine | 5.7 g | O1CCN(CC1)C(=O)CN1CCN(CC1)C(=O)C1CCC(N1)=O | C15H24N4O4
